US08623860B2
N-(1-(4-Bromophenyl)propan-2-yl)acetamide
17.0 mL (179.7 mmol) acetic anhydride are added to a mixture of 24.2 g (113 mmol) 1-(4-bromophenyl)propane-2-amine and 20 mL AcOH and the reaction mixture is stirred at r.t. over night. The solvent is evaporated in vacuo, and the residue partitonated between TBME and a saturated aq. NaHCO3 solution. The layers are separated and the organic layer is washed with water, dried with Na2SO4, filtered and the solvent is removed in vacuo. The crude product is triturated with DIPE.

reactant | acetic anhydride | 179.7 mmol, 17.0 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 1-(4-bromophenyl)propane-2-amine | 113 mmol, 24.2 g | BrC1=CC=C(C=C1)CC(C)N | C9H12BrN
solvent | AcOH | 20 mL | CC(=O)O | C2H4O2
product | N-(1-(4-Bromophenyl)propan-2-yl)acetamide | BrC1=CC=C(C=C1)CC(C)NC(C)=O | C11H14BrNO
